### PR TITLE
[Merged by Bors] - chore: review of porting notes in Analysis/

### PR DESCRIPTION
**Pull request by kim-em**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/BoxIntegral/Partition/Measure.lean [hunk 1]
```diff
@@ -105,7 +105,6 @@ namespace Box
 
 variable [Fintype ι]
 
--- @[simp] -- Porting note: simp normal form is `volume_apply'`
```
Comment (Ruben-VandeVelde) [inline Mathlib/Analysis/BoxIntegral/Partition/Measure.lean:108]: Maybe this is worth keeping as a normal note

File: Mathlib/Analysis/Calculus/BumpFunction/FiniteDimension.lean [hunk 2]
```diff
@@ -142,10 +142,8 @@ theorem IsOpen.exists_smooth_support_eq {s : Set E} (hs : IsOpen s) :
       refine le_trans ?_ (le_max_left _ _)
       apply Finset.le_max'
       apply Finset.mem_image_of_mem
-      -- Porting note: was
-      -- simp only [Finset.mem_range]
-      -- linarith
-      simpa only [Finset.mem_range, Nat.lt_add_one_iff]
+      simp only [Finset.mem_range]
+      linarith
```
Comment (Ruben-VandeVelde) [inline Mathlib/Analysis/Calculus/BumpFunction/FiniteDimension.lean:146]: `linarith` seems pretty heavy for what it needs to do here. No objection if you prefer it, though

File: Mathlib/Analysis/Calculus/ContDiff/Operations.lean [hunk 3]
```diff
@@ -826,7 +826,6 @@ over `𝕜`.
 
 
 variable (𝕜) {𝕜' : Type*} [NontriviallyNormedField 𝕜']
--- Porting note: this couldn't be on the same line as the binder type update of `𝕜`
 variable [NormedAlgebra 𝕜 𝕜']
```
Comment (Ruben-VandeVelde) [inline Mathlib/Analysis/Calculus/ContDiff/Operations.lean:829]:
```suggestion
variable {𝕜' : Type*} [NontriviallyNormedField 𝕜'] [NormedAlgebra 𝕜 𝕜']
```

File: Mathlib/Analysis/Convex/Basic.lean [hunk 4]
```diff
@@ -598,7 +598,7 @@ theorem convex_stdSimplex : Convex 𝕜 (stdSimplex 𝕜 ι) := by
   refine fun f hf g hg a b ha hb hab => ⟨fun x => ?_, ?_⟩
   · apply_rules [add_nonneg, mul_nonneg, hf.1, hg.1]
   · erw [Finset.sum_add_distrib]
-    simp only [Pi.smul_apply] -- Porting note: `erw` failed to rewrite with `← Finset.smul_sum`
+    simp only [Pi.smul_apply]
     rw [← Finset.smul_sum, ← Finset.smul_sum, hf.2, hg.2, smul_eq_mul,
       smul_eq_mul, mul_one, mul_one]
```
Comment (Ruben-VandeVelde) [inline Mathlib/Analysis/Convex/Basic.lean:603]: Could be
```lean
  · simp_rw [Pi.add_apply, Pi.smul_apply]
    rw [Finset.sum_add_distrib, ← Finset.smul_sum, ← Finset.smul_sum, hf.2, hg.2, smul_eq_mul,
      smul_eq_mul, mul_one, mul_one]
```

File: Mathlib/Analysis/Normed/Affine/AddTorsor.lean [hunk 5]
```diff
@@ -256,11 +256,7 @@ def AffineMap.ofMapMidpoint (f : P → Q) (h : ∀ x y, f (midpoint ℝ x y) = m
...
   AffineMap.mk' f (↑((AddMonoidHom.ofMapMidpoint ℝ ℝ
     ((AffineEquiv.vaddConst ℝ (f <| c)).symm ∘ f ∘ AffineEquiv.vaddConst ℝ c) (by simp)
-    fun x y => by -- Porting note: was `by simp [h]`
-      simp only [c, Function.comp_apply, AffineEquiv.vaddConst_apply,
-        AffineEquiv.vaddConst_symm_apply]
-      conv_lhs => rw [(midpoint_self ℝ (Classical.arbitrary P)).symm, midpoint_vadd_midpoint, h, h,
-          midpoint_vsub_midpoint]).toRealLinearMap <| by
+    fun x y => by simp [h]).toRealLinearMap <| by
         apply_rules [Continuous.vadd, Continuous.vsub, continuous_const, hfc.comp, continuous_id]))
     c fun p => by simp
```
Comment (Ruben-VandeVelde) [inline Mathlib/Analysis/Normed/Affine/AddTorsor.lean:261]: (Wow, this is unreadable)

File: Mathlib/Analysis/SpecialFunctions/Bernstein.lean [hunk 6]
```diff
@@ -180,15 +180,13 @@ def S (f : C(I, ℝ)) (ε : ℝ) (h : 0 < ε) (n : ℕ) (x : I) : Finset (Fin (n
 theorem lt_of_mem_S {f : C(I, ℝ)} {ε : ℝ} {h : 0 < ε} {n : ℕ} {x : I} {k : Fin (n + 1)}
     (m : k ∈ S f ε h n x) : |f k/ₙ - f x| < ε / 2 := by
   apply f.dist_lt_of_dist_lt_modulus (ε / 2) (half_pos h)
-  -- Porting note: `simp` fails to apply `Set.mem_toFinset` on its own
-  simpa [S, (Set.mem_toFinset)] using m
+  simpa [S, Set.mem_toFinset] using m
```
Comment (Ruben-VandeVelde) [inline Mathlib/Analysis/SpecialFunctions/Bernstein.lean:183]:
```suggestion
  simpa [S] using m
```

**Review by Ruben-VandeVelde — APPROVED** [review]
Thanks!

File: Mathlib/Analysis/CStarAlgebra/Multiplier.lean [hunk 7]
```diff
@@ -73,7 +73,6 @@ scoped[MultiplierAlgebra] notation "𝓜(" 𝕜 ", " A ")" => DoubleCentralizer
 
 open MultiplierAlgebra
 
--- Porting note: `ext` was generating the wrong extensionality lemma; it deconstructed the `×`.
```
[the remark this answers is not in the document]
Comment (kim-em) [reply Mathlib/Analysis/CStarAlgebra/Multiplier.lean:76]: No. I think we long ago decided that the new `ext` behaviour is better. Library authors need to add additional `@[ext]` lemmas if there are situations where the new `ext` will not break open definitions that the old `ext` was willing to. (The old `ext` just blindly calls `apply` with every `ext` lemma. The new `ext` uses a discrimination tree.)

**Review by b-mehta — APPROVED** [review]
I haven't looked at all the files, but the ones I looked at (about a third of them) seemed completely reasonable to me.

File: Mathlib/Analysis/Calculus/BumpFunction/FiniteDimension.lean (hunk 2 above)
Comment (kim-em) [reply Mathlib/Analysis/Calculus/BumpFunction/FiniteDimension.lean:146]: Switched to `omega`. I never do arithmetic by hand if I can help it, even if it's a single step. :-)

File: Mathlib/Analysis/Convex/Basic.lean (hunk 4 above)
Comment (kim-em) [reply Mathlib/Analysis/Convex/Basic.lean:603]: Needed a `rwa`, but great!

File: Mathlib/Analysis/Asymptotics/Theta.lean [hunk 8]
```diff
@@ -70,7 +70,6 @@ theorem IsTheta.trans {f : α → E} {g : α → F'} {k : α → G} (h₁ : f =
     f =Θ[l] k :=
   ⟨h₁.1.trans h₂.1, h₂.2.trans h₁.2⟩
 
--- Porting note (https://github.com/leanprover-community/mathlib4/issues/10754): added instance
```
[the remark this answers is not in the document]
Comment (kim-em) [reply Mathlib/Analysis/Asymptotics/Theta.lean:73]: Included in #22857

File: Mathlib/Analysis/Calculus/FormalMultilinearSeries.lean [hunk 9]
```diff
@@ -47,7 +46,6 @@ def FormalMultilinearSeries (𝕜 : Type*) (E : Type*) (F : Type*) [Semiring 
     [ContinuousConstSMul 𝕜 F] :=
   ∀ n : ℕ, E[×n]→L[𝕜] F
 
--- Porting note: was `deriving`
```
Comment (jcommelin) [inline Mathlib/Analysis/Calculus/FormalMultilinearSeries.lean:50]:
```suggestion
This used to be generated by a derive handler. See:
https://github.com/leanprover-community/mathlib4/issues/380
```

File: Mathlib/Analysis/Complex/UpperHalfPlane/Basic.lean [hunk 10]
```diff
@@ -54,7 +54,6 @@ scoped notation:1024 "↑ₘ[" R "]" A:1024 =>
 /-- Canonical embedding of the upper half-plane into `ℂ`. -/
 @[coe] protected def coe (z : ℍ) : ℂ := z.1
 
--- Porting note: added to replace `deriving`
```
Comment (jcommelin) [inline Mathlib/Analysis/Complex/UpperHalfPlane/Basic.lean:57]:
```suggestion
This used to be generated by a derive handler. See:
https://github.com/leanprover-community/mathlib4/issues/380
```

**Review by jcommelin — COMMENTED** [review]
Halfway, will review the rest asap.

**Review by jcommelin — COMMENTED** [review]
80/95 done

File: Mathlib/Analysis/SpecialFunctions/Trigonometric/Angle.lean [hunk 11]
```diff
@@ -22,24 +22,18 @@ noncomputable section
...
 namespace Real
 
--- Porting note: can't derive `NormedAddCommGroup, Inhabited`
 /-- The type of angles -/
 def Angle : Type :=
   AddCircle (2 * π)
 
 namespace Angle
 
--- Porting note (https://github.com/leanprover-community/mathlib4/issues/10754): added due to missing instances due to no deriving
```
Comment (jcommelin) [inline Mathlib/Analysis/SpecialFunctions/Trigonometric/Angle.lean:32]: I guess these might now create a merge conflict with #22869

File: Mathlib/Analysis/SpecialFunctions/Log/Deriv.lean [hunk 12]
```diff
@@ -210,17 +210,14 @@ theorem tendsto_mul_log_one_plus_div_atTop (t : ℝ) :
...
+TODO: use one of generic theorems about Taylor's series to prove this estimate.
 -/
 theorem abs_log_sub_add_sum_range_le {x : ℝ} (h : |x| < 1) (n : ℕ) :
     |(∑ i ∈ range n, x ^ (i + 1) / (i + 1)) + log (1 - x)| ≤ |x| ^ (n + 1) / (1 - |x|) := by
   /- For the proof, we show that the derivative of the function to be estimated is small,
     and then apply the mean value inequality. -/
   let F : ℝ → ℝ := fun x => (∑ i ∈ range n, x ^ (i + 1) / (i + 1)) + log (1 - x)
   let F' : ℝ → ℝ := fun x ↦ -x ^ n / (1 - x)
-  -- Porting note: In `mathlib3`, the proof used `deriv`/`DifferentiableAt`. `simp` failed to
-  -- compute `deriv`, so I changed the proof to use `HasDerivAt` instead
```
Comment (jcommelin) [inline Mathlib/Analysis/SpecialFunctions/Log/Deriv.lean:223]: This one still seems relevant.

**Review by jcommelin — COMMENTED** [review]
Reviewed all files now.

File: Mathlib/Analysis/SpecialFunctions/Log/Deriv.lean (hunk 12 above)
Comment (kim-em) [reply Mathlib/Analysis/SpecialFunctions/Log/Deriv.lean:223]: Restored.

File: Mathlib/Analysis/Normed/Operator/Banach.lean [hunk 13]
```diff
@@ -377,7 +377,6 @@ noncomputable def ofBijective (f : E →SL[σ] F) (hinj : ker f = ⊥) (hsurj :
   (LinearEquiv.ofBijective ↑f
         ⟨LinearMap.ker_eq_bot.mp hinj,
           LinearMap.range_eq_top.mp hsurj⟩).toContinuousLinearEquivOfContinuous
-    -- Porting note: added `by convert`
```
[the remark this answers is not in the document]
Comment (kim-em) [reply Mathlib/Analysis/Normed/Operator/Banach.lean:380]: I've checked it's still needed, and restored the note.

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
